US07858781B2
(1) 2,2-Dimethyl-propionic acid 1-benzyl-piperidin-4-yl ester (51)
A solution of 1-benzyl-piperidin-4-ol (25 g, 130.7 mmol) and triethylamine (36.1 ml, 261.4 mmol) in 250 ml of THF is treated with 2,2-dimethyl-propionyl chloride (32.2 ml, 261.4 mmol). The suspension is heated under reflux over night. The solvent is evaporated, the residue taken up in DCM and washed with saturated sodium bicarbonate solution and brine. Drying and evaporation gave an orange oil.

reactant | 1-benzyl-piperidin-4-ol | 130.7 mmol, 25 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 261.4 mmol, 36.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-propionyl chloride | 261.4 mmol, 32.2 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-propionic acid 1-benzyl-piperidin-4-yl ester | C(C1=CC=CC=C1)N1CCC(CC1)OC(C(C)(C)C)=O | C17H25NO2
